US03931226
9-Chloro-11-(o-chlorophenyl)-2,4,5,11-tetrahydro-3H-1,3-diazepino[1,2-a]indol-11-ol
2-Amino-5-chloro-3-(o-chlorophenyl)-3H-indol-3-ol (5.86 g) was heated under reflux with 1,4-dibromobutane (4.32 g) for 18 hours. On cooling the hydrobromide of the title compound (1.67 g) was deposited m.p. 295°-300°C (decomp.).

reactant | 2-Amino-5-chloro-3-(o-chlorophenyl)-3H-indol-3-ol | 5.86 g | NC1=NC2=CC=C(C=C2C1(O)C1=C(C=CC=C1)Cl)Cl | C14H10Cl2N2O
reactant | 1,4-dibromobutane | 4.32 g | BrCCCCBr | C4H8Br2
reactant | hydrobromide | Br | BrH
product | 9-Chloro-11-(o-chlorophenyl)-2,4,5,11-tetrahydro-3H-1,3-diazepino[1,2-a]indol-11-ol | 1.67 g | ClC1=CC=2C(C=3N(C2C=C1)CCCCN3)(O)C3=C(C=CC=C3)Cl | C18H16Cl2N2O
